US07022725B2
A solution of 4-chloromethyl-3-(4-phenylphenyl)isoxazole (3.20 g) in tetrahydrofuran (100 ml) was added to a mixture of diethyl malonate (5.70 g), sodium hydride (60%, oil, 1.40 g) and tetrahydrofuran (50 ml) at 0° C. The mixture was stirred at 0° C. for 1 hr and then at room temperature overnight. The reaction mixture was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and a colorless oil was obtained from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). A mixture of the obtained colorless oil, 6N hydrochloric acid (30 ml) and acetic acid (30 ml) was refluxed for 5 hr. The reaction mixture was concentrated, and water was added to the residue. The obtained colorless crystals were filtrated to give 3-[3-(4-phenylphenyl)-4-isoxazolyl]propionic acid (2.89 g, yield 83%). The crystals were recrystallized from acetone-hexane. melting point: 169–170° C.

reactant | 4-chloromethyl-3-(4-phenylphenyl)isoxazole | 3.20 g | ClCC=1C(=NOC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H12ClNO
reactant | diethyl malonate | 5.70 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 1.40 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-phenylphenyl)-4-isoxazolyl]propionic acid | 2.89 g, yield 83% | C1(=CC=CC=C1)C1=CC=C(C=C1)C1=NOC=C1CCC(=O)O | C18H15NO3
